US05026702
5-Bromo-3-bromoacetyl-pyridine hydrobromide
4 g (0.02 mol) of 5-bromo-3-acetyl-pyridine are dissolved in 50 ml of chloroform, 5 drops of glacial acetic acid/hydrobromic acid (35%) are added and the mixture is heated to boiling. To this boiling solution, 3.2 g (0.02 mol) of bromine in 30 ml of chloroform are added dropwise over a period of 5 hours with stirring. After cooling to ambient temperature the yellow solid product is suction filtered.

reactant | 5-bromo-3-acetyl-pyridine | 0.02 mol, 4 g | BrC=1C=C(C=NC1)C(C)=O | C7H6BrNO
reactant | bromine | 0.02 mol, 3.2 g | BrBr | Br2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | acetic acid hydrobromic acid | 5 drops | C(C)(=O)O.Br
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Bromo-3-bromoacetyl-pyridine hydrobromide | Br.BrC=1C=C(C=NC1)C(CBr)=O | InChI=1S/C7H5Br2NO.BrH/c8-2-7(11)5-1-6(9)4-10-3-5;/h1,3-4H,2H2;1H
